Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hemoptysis

 
Major Surgical or Invasive Procedure:
Intubation
Bronchoscopy
Rigid bronchoscopy
Bronchial artery embolization
 
History of Present Illness:
This is a ___ year old female with PMH history significant for TB 
treated ___ years prior, bronchiectasis on 2L home oxygen, ASD 
s/p surgical repair with resultant atrial fibrillation, history 
of subdural hematoma and rectus sheath hematoma secondary to 
coumadin and multiple TIAs off of anticoagulation, on dabigatran 
for several weeks who presented initially to OSH for hemoptysis 
and transferred to ___ for further evaluation.

Per report, patient with several coughing episodes last night 
with hemoptysis of several teaspoons of bright red blood.  She 
went to bed without incident.  On the day of admission, patient 
developed massive amounts of hemoptysis (several cupfulls) at 
1PM today, and was taken to an OSH.  There, she was found to be 
tachycardic to the 120s and hypoxic to 85% (on unclear amount of 
oxygen) with stable hematocrit of 42.7 and an INR of 1.1.  Other 
labs notable for wbc of 15.3, dig level of 0.7, trop of 0.01, 
CK: 51, sodium 126.  She was intubated for airway protection.  
Chest radiograph without acute process.  Thoracic surgery team 
performed bronchoscopy who found blood in the RLL; no 
intervention was performed.  NG tube was placed and drained 
coffee ground material.

At ___ ED, initial vital signs were 130/80, 80, 16, 100%.  
Repeat hct was 39.5 and INR was 1.3.  NG lavage was clear.  
Chest radiograph demonstrated opacities bilaterally concerning 
for blood vs. aspiration.  IP was consulted and patient was 
taken emergently to OR for rigid bronchoscopy, which 
demonstrated large clot in RLL with active oozing around the 
clot.  BAL was performed.  Left lung was suctioned of blood.  
Double lumen endotracheal tube was placed to protect the left 
lung.  Plan was for ___ to evaluate patient for bronchial artery 
embolization.
 
Past Medical History:
- atrial fibrillation, previously on coumadin but now on 
dabigatran
- history of subdural bleed ___ years ago while on coumadin with 
some dysarthria and right sided weakness 
- history of multiple TIAs (most recently 2 weeks ago) while off 
coumadin (restarted coumadin several years ago) -> stopped 
definitively on ___.  Restarted dabigatran several weeks 
ago.
- history of large rectus sheath hematoma in ___ 
- HTN
- GERD
- history of TB treated ___ years ago
- bronchiectasis with home oxygen of 2L
- ASD s/p surgical repair ___ years prior with development of 
atrial fibrillation after procedure
- chronic hyponatremia ? secondary to ___
 
Social History:
___
Family History:
NC
 
Physical Exam:
ADMISSION:
VS: Temp: BP: 126/61 HR: 74 RR: 25 O2sat, 100% on vent. 
GEN: intubated
HEENT: pupils round, 3mm, and sluggishly reactive to light
RESP: lungs clear to auscultation from the anterior chest wall
CV: RRR, S1 and S2 wnl, no m/r/g  
ABD: soft, nd, +b/s, soft, nt, no masses or hepatosplenomegaly  
EXT: no c/c/e  
SKIN: no rashes/no jaundice/no splinters  
NEURO: Intubated, pupil exam as above.
.
DISCHARGE:
VS: Temp: 96.4 BP: 144/78 HR: 64 RR: 18 O2sat: 98%2L NC
GA: AOx2, NAD
HEENT: MMM. no LAD. no JVD. neck supple. 
Cards: irreg irreg, S1/S2 heard. no murmurs/gallops/rubs.
Pulm: CTAB, no wheezes or rhonchi
Abd: soft, NT, +BS. no g/rt. Palpable R periumbical subcutaneous 
mass, non-tender, non-fluctuant
Extremities: wwp, no edema in ___ bilaterally. DPs, PTs 2+. 
Skin: dry, ecchymoses on UE bilaterally
Neuro/Psych: CNs II-XII grossly intact. ___ strength in U/L ext, 
R<L. Sensation intact to LT. Gait deferred. Able to perform DOTW 
forward.

 
Pertinent Results:
Admission labs:
___ 06:10PM   GLUCOSE-108* UREA N-18 CREAT-0.5 SODIUM-131* 
POTASSIUM-4.3 CHLORIDE-91* TOTAL CO2-31 ANION GAP-13
___ 06:10PM   OSMOLAL-273*
___ 06:10PM   WBC-10.7 RBC-4.16* HGB-12.8 HCT-39.5 MCV-95 
MCH-30.8 MCHC-32.4 RDW-14.8
___ 06:10PM   NEUTS-86.4* LYMPHS-10.0* MONOS-3.1 EOS-0.3 
BASOS-0.3
___ 06:10PM   PLT COUNT-231
___ 06:10PM   ___ PTT-34.1 ___                
   
___ 03:08   Digoxin 0.8* 
.
Discharge labs:
___ 05:47AM BLOOD WBC-6.2 RBC-3.27* Hgb-10.0* Hct-30.5* 
MCV-93 MCH-30.6 MCHC-32.9 RDW-14.8 Plt ___
___ 05:47AM BLOOD Glucose-86 UreaN-15 Creat-0.5 Na-136 
K-3.8 Cl-95* HCO3-34* AnGap-11
___ 05:47AM BLOOD Calcium-8.6 Phos-3.4 Mg-2.2
.
Cardiac enzymes:
                   CK-MB cTropnT 
___ 05:09    2 <0.011 
___ 21:43    2 <0.011 
___ 13:01    2 <0.011 
___ 05:43    2 <0.011 
___ 03:59    2 <0.011 
.
Microbiology:
___  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-NEG
___  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-NEG
___  BLOOD CULTURE-NEG
___  Mini-BAL GRAM STAIN-GNRs; RESPIRATORY 
CULTURE-PSEUDOMONAS AERUGINOSA. 10,000-100,000 ORGANISMS/ML; 
LEGIONELLA CULTURE-PRELIMINARY; FUNGAL CULTURE-NGTD; ACID FAST 
SMEAR-NEG; ACID FAST CULTURE-NGTD
___  BRONCHOALVEOLAR LAVAGE GRAM STAIN-FINAL; RESPIRATORY 
CULTURE-FINAL {PSEUDOMONAS AERUGINOSA, PSEUDOMONAS AERUGINOSA} 
INPATIENT 
___  URINE CULTURE-NEG
___  BLOOD CULTURE-NEG
___  URINE CULTURE-NEG
___  BRONCHIAL WASHINGS GRAM STAIN-NEG; RESPIRATORY 
CULTURE-  PSEUDOMONAS AERUGINOSA
                             |          PSEUDOMONAS AERUGINOSA
                             |          |   
AMIKACIN--------------    32 I       16 S
CEFEPIME--------------    16 I       16 I
CEFTAZIDIME-----------     2 S        4 S
CIPROFLOXACIN---------   =>4 R      =>4 R
GENTAMICIN------------  =>16 R     =>16 R
MEROPENEM-------------     1 S        1 S
PIPERACILLIN/TAZO-----   <=4 S      <=4 S
TOBRAMYCIN------------  =>16 R     =>16 R
ACID FAST SMEAR-NEG; ACID FAST CULTURE-PRELIMINARY; FUNGAL 
CULTURE-NGTD; POTASSIUM HYDROXIDE PREPARATION-Cancelled; 
LEGIONELLA CULTURE-NEG
___  MRSA SCREEN-NEG
.
Imaging:  
Chest radiograph (___): 
1. ET tube 6 cm above carina. 
2. Endogastric tube side port just at the GE junction, would 
recommend 
advancing approximately 5 more cm to ensure that it is within 
the stomach. 
3. Patchy opacities throughout the lungs may represent 
aspiration or 
hemorrhage in this patient with hemoptysis. 
4. Prominent right apical opacity may be prominent assymetic 
pleural 
thickening. Recommend correlation with history of malignancy and 
chest CT for further evaluation. 
.
Bronch report (___): large clot in RLL, actively oozing 
around clot.  Clot was not disturbed.  
.
TTE (___):
The left and right atria are moderately dilated. Left 
ventricular wall thickness, cavity size, and global systolic 
function are normal (LVEF>55%). Due to suboptimal technical 
quality, a focal wall motion abnormality cannot be fully 
excluded. The right ventricular cavity is dilated. Free wall 
motion is low normal. The aortic valve leaflets are mildly 
thickened. There is no aortic valve stenosis. Mild (1+) aortic 
regurgitation is seen. Mild to moderate (___) mitral 
regurgitation is seen. [Due to acoustic shadowing, the severity 
of mitral regurgitation may be significantly UNDERestimated.] 
Moderate [2+] tricuspid regurgitation is seen. There is moderate 
pulmonary artery systolic hypertension. There is no pericardial 
effusion. 
IMPRESSION: Suboptimal image quality. Normal biventricular 
cavity sizes with preserved global biventricular systolic 
function. Pulmonary artery hypertension. Moderaet mitral 
regurgitation. Mild aortic regurgitation. 
.
Rigid bronch report (___):
Once the patient was relaxed, the rigid bronchoscope was 
introduced into the oral cavity and followed along the double 
lumen endotracheal tube until the cords were visualized. At that 
point in time, the tracheal cuff on the double lumen was 
deflated and the tube was pulled back as the rigid scope 
intubated the cords and was positioned in the trachea. Once in 
good position, jet ventilation was started.

The flexible bronchoscope was then introduced through the rigid 
barrel and complete airway surveillance was done to subsegmental 
bronchi. Noted was a large amount of clot burden on the right 
side, but no active bleeding. The left side was clear and some 
minimal areas of secretions were all cleared
with the flexible scope. Large amounts of clot were removed from 
the all segments of the right lower lobe, including the 
posterior segment as well as the right middle lobe. There were 
no signs of active bleeding. No endobronchial lesion visualized. 
The flexible scope was then removed.

A Cook catheter was introduced through the rigid scope. The 
rigid was removed and a single lumen a tracheal tube introduced 
via direct visualization by Anesthesia. The tube was then 
confirmed to be approximately 2 cm above the carina via 
bronchoscopy. The bronchoscope was removed.  The procedure was 
ended with no complications.
 
Brief Hospital Course:
-please check CBC and CHEM 7 in 1 week to monitor for resolution 
of isolated thrombocytosis, check renal function, potassium 
after starting ACE-i
.
___ w/PMH significant for bronchiectasis, afib s/o ___ guided 
embolization for hemoptysis now called out from MICU for 
continued medical management of VAP; episode of chest pain 
during admission w/EKG changes, CEs negative x 3. 
.
MICU COURSE ___ - ___ Transferred to floor from ___ 
- ___
.
# Hemoptysis: Resolved s/p right bronchial artery embolization. 
Initially unclear etiology, with broad differential including 
bleeding in setting of bronchiectasis on dabigatran and 
overlying infection.  On admission to the MICU was s/p bronch 
demonstrating large clot in RLL with oozing.  Double lumen 
endotracheal tube was in place to protect the left lung from 
future bleeding and underwent emergent ___ bronchial artery 
embolization of right bronchial artery embolization using 
300-500 mic embospheres -> enlarged hypertrophic arteries 
suggestive of bleeding.  2 arteries supplying RLL, both 
embolized.  Subsequently the patient did well and was able to 
have a regular ETT placed. She had a repeat bronch showing no 
bleeding but copiuous secretions concerning for a VAP which was 
treated as below.  Her hematocrits remained stable and after 
consultation with her PCP it was decided that she would no 
longer be an anticoagulation candidate but could be restarted on 
asprin 325mg daily for stroke prevention in setting of AFib with 
recent TIAs. Pt was successfully extubated and weaned to home 
baseline O2 requirement of 2L prior to discharge without 
difficulty.
.
# Respiratory Failure/VAP. Intitially was intubated in the 
setting of hemoptysis however once bleeding resolved she 
continued to have RLL collapse on XRay concerning for another 
process. A bronch revealed no bleeding but copious secretions 
concerning for VAP. She was treated with Vanc and Zosyn until 
sputum and BAL cultures grew out two strains GNRS and 
antibiotics were broadened to Tobramycin. When speciation and 
sensitivities grew out two strains of pseudomonas antibiotics 
were weaned to Zosyn.  ID was consulted who recommended 
completing a 15 day course of zosyn (day ___ to ___. She 
had a difficult time weaning from the vent and diuresis was 
initiated in the hope of improving her respiratory status.  She 
was successfully extubated on ___ and weaned to baseline O2 
requirement without issues.
.
# Atrial fibrillation: Developed secondary to ASD surgical 
repair.  Patient with history of cerebral bleed on coumadin and 
TIA without anticoagulation. Anticoagulation was held in the 
setting of hemoptysis and as above after consultation with her 
PCP she was restarted only on Aspirin 325mg daily for CVA ppx.  
Her home rate controlling agents were initially held in the 
setting of her bleed and slowly added back (metoprolol, 
diltiazem, and digoxin). Had episodes of afib with RVR in ICU, 
now resolved. Metoprolol titrated up to 150mg daily for improved 
rate control. Patient was on short acting diltizem four times a 
day as an inpatient; this was switched to long acting diltiazem 
on discharge.
.
# Diarrhea: In setting of tube feeds via NGT while patient was 
being cleared by speech and swallow. Resolved after stopping 
tube feed. Denied abdominal pain, N/V, remained afebrile; C. 
diff negative x 2 and no leukocytosis. 
.
# Chest pain: 30 minute episode of L sided chest pressure ___ 
days prior to discharge, resolved with SLNG x 1, dynamic EKG 
changes notable for ST depressions in lateral leads, resolved 
when chest pain free. CE negative x 3. Echo performed earlier 
this admission w/dilated atria, intact systolic function. 
Maximized medical management by uptitrating beta blockage, 
continuing ASA, and starting statin, ACE-i. Patient was on 
atorvastatin 80mg as an inpatient, but switched to simvastatin 
40mg on discharge in light of LDL of 119, lisinopril 5mg for 
improved BP control, cardiac/renal protection.
.
# Thrombocytosis: Isolated thrombocytosis without elevated WBC, 
fevers or other signs or symptoms of infection. Started to trend 
downward prior to discharge. 
.
# Bronchiectasis: Patient with baseline O2sats in the low ___ on 
2L. She was continued on home nebulizers.
.
# GERD: continued on PPI.
.
# HTN: Held home antihypertensives initially in setting of 
bleed.  Metoprolol and diltiazem were later restarted. 
Metoprolol increased as above, started lisinopril 5mg daily.
.
# Hyponatremia: Chronic per outside records, attributed to 
SIADH.  Sodium within known range, improved with 250cc NS bolus, 
free water restriction to 1L/day.  Home demeclocycline briefly 
held in ICU, but then continued. Na 136 on discharge.
.
# Prophylaxis: Patient received heparin products during this 
admission.
.
# Code: Full
 
Medications on Admission:
- albuterol inhaler
- aspirin 81mg PO daily
- cardizem CD 240mg PO daily
- colace
- combivent 2 puffs qid
- dabigatran 150mg PO BID
- demeclocycline 150mg PO BID
- digoxin 0.25mg MWF, 0.125 other days
- flonase
- lasix 60mg PO daily
- prilosec 20mg PO daily
- spiriva
- toprol 50mg PO daily
- zyrtec 10mg PO daily
 
Discharge Medications:
  

1. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___  Inhalation every six (6) hours as needed for shortness of 
breath or wheezing.  
2. Cardizem CD 240 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO once a day.  
3. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO twice 
a day: Please hold for loose stools.  
4. Combivent ___ mcg/Actuation Aerosol Sig: Two (2)  
Inhalation four times a day as needed for shortness of breath or 
wheezing.  
5. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
6. demeclocycline 150 mg Tablet Sig: One (1) Tablet PO twice a 
day.  
7. digoxin 125 mcg Tablet Sig: One (1) Tablet PO 4X/WEEK 
(___).  
8. digoxin 250 mcg Tablet Sig: One (1) Tablet PO 3X/WEEK 
(___).  
9. Flonase 50 mcg/Actuation Spray, Suspension Sig: One (1) spray 
each nostril Nasal once a day as needed for nasal congestion.  
10. Prilosec 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
11. Spiriva with HandiHaler 18 mcg Capsule, w/Inhalation Device 
Sig: One (1)  Inhalation once a day.  
12. metoprolol succinate 50 mg Tablet Sustained Release 24 hr 
Sig: Three (3) Tablet Sustained Release 24 hr PO DAILY (Daily).  

13. Zyrtec 10 mg Capsule Sig: One (1) Capsule PO once a day.  
14. simvastatin 40 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
15. lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
16. quetiapine 25 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime) 
as needed for anxiety/insomnia.  
17. Outpatient Lab Work
Check CBC and CHEM-7 in 1 week (___) to monitor for 
resolution of isolated thrombocytosis & check renal function and 
potassium after starting lisinopril.
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: Hemoptysis, ventilator associated pneumonia, chest pain
Secondary: Bronchiectasis, atrial fibrillation
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
 
Discharge Instructions:
Dear Ms. ___, 
.
You were admitted for coughing up blood. You required a 
breathing tube to protect your lungs. The bleeding was 
controlled and you did not have any more cough with blood after 
the breathing tube was taken out. You were also found to have a 
lung infection and received antibiotics. You had some chest 
pressure while you were in the hospital; you did NOT have a 
heart attack. 
.
Please make the following changes to your medications:
- STOP lasix
- STOP dabigatran
.
- INCREASE Toprol XL to 150mg daily by mouth for your heart rate 
and blood pressure
- INCREASE aspirin to 325mg daily by mouth for your heart and to 
thin your blood
.
- START simvastatin 40mg by mouth daily for your heart
- START lisinopril 5mg by mouth daily for your heart and blood 
pressure
- START quetiapine 12.5 mg at night as needed for 
anxiety/insomnia
.
Please continue all other medications as prescribed.
.
In 1 week (___) you should get outpatient lab work to check a 
CBC and CHEM-7 in  to monitor for resolution of your high 
platelet count & check your kidney function and potassium after 
starting lisinopril.
.
It was a pleasure to meet you and participate in your care.
 
Followup Instructions:
___